US04780537
Preparation of 6-amino-1,2-dihydro-1-acetoxy-2-imino-4-chloropyrimidine
5 g (0.035 mole) of 2,6-diamino-4-chloropyrimidine are dissolved in 50 ml of anhydrous tetrahydrofuran. 7 ml of a 70% aqueous hydrogen peroxide solution and 16 ml of acetic anhydride are added dropwise while stirring at a temperature of 40° C. in half an hour. The mixture is stirred at 60° C. for further two hours. After evaporating the tetrahydrofuran 50 ml of water are added to the residue, then it is kept in a refrigerator for a night. Thus 4.00 g (57%) of the aimed compound separate. Further 0.77 g (11%) of this compound is obtained by filtering the product achieved by the second separation.

reactant | 2,6-diamino-4-chloropyrimidine | 0.035 mole, 5 g | NC1=NC(=CC(=N1)Cl)N | C4H5ClN4
reactant | hydrogen peroxide | OO | H2O2
reactant | acetic anhydride | 16 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 6-amino-1,2-dihydro-1-acetoxy-2-imino-4-chloropyrimidine | 0.77 g, 11% | NC1=CC(=NC(N1OC(C)=O)=N)Cl | C6H7ClN4O2
